US06342516B1
Preparation of 5-(4-nitrophenyl)pyrazole
4-Nitroacetophenone(15 g) and N,N-dimethylformamide dimethylacetal(54 g) were refluxed for 1 hour. The reaction mixture was cooled, then crystals precipitate were filtered. To a solution of the crystals obtained (13.5 g) in ethanol (150 ml) was added hydrazine (4.52 g) and p-toluene sulfonic acid monohydrate (0.15 g) and the mixture was refluxed for 1 hours. The solvent was evaporated to dryness and the residue was crystallized from ether to obtain thr title compound (10.1 g).

reactant | 4-Nitroacetophenone | 15 g | CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO3
reactant | N,N-dimethylformamide dimethylacetal | 54 g | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine | 4.52 g | NN | H4N2
catalyst | p-toluene sulfonic acid monohydrate | 0.15 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 5-(4-nitrophenyl)pyrazole | 10.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=NN1 | C9H7N3O2
